US05157026
2-Ethyl-5-(methylamino)-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine
A mixture of 5-Bromo-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine (74 mg), methylamine (0.6 g), and EtOH (2 mL) was heated in a bomb at 180° C. for 16 hours. Concentration and purification (SiO2, 90/9/1 CH2Cl2 /MeOH/NH4OH) gave 34.4 mg of the title compound.

reactant | 5-Bromo-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 74 mg | BrC1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C23H20BrN7
reactant | methylamine | 0.6 g | CN | CH5N
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-Ethyl-5-(methylamino)-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 34.4 mg | C(C)C1=NC=2C(=NC(=CC2C)NC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H24N8
